US07407976B2
DAST (diethylaminosulfur trifluoride) was added to a cold (−78° C.) solution of 3-hydroxy-2-[2-(4-methoxy -phenyl)-acetylamino]-propanoic acid methyl ester (400 mg, 1.5 mmol) in dichloromethane (8 mL). After stirring for 1 h at −78° C., CCl3Br (149 μL, 1.5 mmol) and DBU (226 μL, 1.5 mmol) were added and the reaction was allowed to warm to 25° C. and stirred at this temperature for 12h. The reaction was poured into saturated aqueous NaHCO3 and the biphasic mixture was extracted with DCM. The combined organic extracts were dried with MgSO4 and purified by column chromatography (hexanes: ethyl acetate from 25 to 100%). 2-(4-Methoxy-benzyl)-oxazole-4-carboxylic acid methyl ester was isolated as a white solid (80 mg, 21%). ESI-MS m/z calc. 247.5, found 248.2 (M+1)+. Retention time of 2.64 minutes. 1H NMR (400 MHz, CDCl3) δ3.80 (s, 3H), 3.92 (s, 3H), 4.12 (s, 2H), 6.87 (d, J=8.0 Hz, 2H).

reactant | DAST | C(C)N(CC)S(F)(F)F | C4H10F3NS
reactant | 3-hydroxy-2-[2-(4-methoxy -phenyl)-acetylamino]-propanoic acid methyl ester | 1.5 mmol, 400 mg | COC(C(CO)NC(CC1=CC=C(C=C1)OC)=O)=O | C13H17NO5
reactant | CCl3Br | 1.5 mmol, 149 μL | C(Cl)(Cl)(Cl)Br | CBrCl3
reactant | DBU | 1.5 mmol, 226 μL | C1CCC2=NCCCN2CC1 | C9H16N2
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | dichloromethane | 8 mL | ClCCl | CH2Cl2
product | 2-(4-Methoxy-benzyl)-oxazole-4-carboxylic acid methyl ester | COC(=O)C=1N=C(OC1)CC1=CC=C(C=C1)OC | C13H13NO4
